US05328910
Hydrogen chloride gas was passed into a solution of 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine in hexane to give a precipitate. The precipitate was collected by filtration and dried to afford 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine hydrochloride as a solid, mp 257°-258° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine | CC=1N(C(C2=C(N1)N(C=C2)C2=CC=CC=C2)=NC)C | C15H16N4
solvent | hexane | CCCCCC | C6H14
product | 2,3-dimethyl-4-methylimino-7-phenyl-3H,7H-pyrrolo[2,3-d] pyrimidine hydrochloride | Cl.CC=1N(C(C2=C(N1)N(C=C2)C2=CC=CC=C2)=NC)C | InChI=1S/C15H16N4.ClH/c1-11-17-15-13(14(16-2)18(11)3)9-10-19(15)12-7-5-4-6-8-12;/h4-10H,1-3H3;1H
